US08183018B2
Preparation of 4-hydroxybutyl acrylate glycidyl ether (4-HBAGE), Influence of Temperature and Reaction Time
In each case 20 mMol of 4-hydroxybutyl glycidyl ether (2.92 g) were stirred with 80 mMol of methyl acrylate (6.89 g), 100 mg of Novozym® 435 and 4.0 g of 5 Å molecular sieve were stirred at 20 or 40° C. for 2, 4, 6, 8 or 24 h. Thereafter, the enzyme was filtered off and the excess of methyl acrylate was removed on a rotary evaporator. A colorless acrylate was obtained with 93% (at 20° C.) or 94% (at 40° C.) yield.

reactant | 4-hydroxybutyl glycidyl ether | 20 mMol, 2.92 g | C(C1CO1)OCCCCO | C7H14O3
reactant | methyl acrylate | 80 mMol, 6.89 g | C(C=C)(=O)OC | C4H6O2
product | 4-hydroxybutyl acrylate glycidyl ether | C=CC(=O)OCCCCOCC1CO1 | C10H16O4
